US07652061B2
To a stirred solution of (3-hydroxy-phenyl)-acetic acid methyl ester (4.26 g, 25.66 mmol) and potassium carbonate (7.1 g, 51.33 mmol) in DMF (60 mL) is added 4-chloromethyl-5-methyl-2-phenyl-oxazole (5.33 g, 25.66 mmol) at RT. The reaction mixture is stirred for 16 h at 40° C. followed by 16 h at 60° C. The reaction mixture is cooled to RT, diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated at reduced pressure. The crude product is purified on a Biotage 40M column using 25% ethyl acetate in hexane to yield [3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acetic acid methyl ester as a white solid.

reactant | (3-hydroxy-phenyl)-acetic acid methyl ester | 25.66 mmol, 4.26 g | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | potassium carbonate | 51.33 mmol, 7.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethyl-5-methyl-2-phenyl-oxazole | 25.66 mmol, 5.33 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)=O | C20H19NO4
